US08859773B2
To a 0° C. solution of ethyl 1-tert-butyl-4-(hydroxymethyl)-1H-pyrazole-3-carboxylate (3.9 g, 17.24 mmol) in dichloromethane (120 mL) was added phosphorus tribromide (4.91 mL, 51.7 mmol), and the resultant mixture was stirred 30 minutes at 0° C. and then 1 hour at room temperature. The mixture was quenched with 50 mL water, neutralized with saturated aqueous sodium bicarbonate, stirred 30 minutes, and then extracted with dichloromethane (2×150 mL). The combined organic extracts were washed with 100 mL brine, dried over sodium sulfate, filtered and concentrated. The resulting residue was purified by flash chromatography (7-60% ethyl acetate/heptanes, 50 g silica gel) to yield ethyl 4-(bromomethyl)-1-tert-butyl-1H-pyrazole-3-carboxylate (4.12 g) as a clear oil. +APCI (M+H) 289.1; 1H NMR (400 MHz, CDCl3, δ): 7.61 (s, 1H), 4.70 (s, 2H), 4.41 (q, J=7.2 Hz, 2H), 1.60 (s, 9H), 1.40 (t, 3H).

reactant | ethyl 1-tert-butyl-4-(hydroxymethyl)-1H-pyrazole-3-carboxylate | 17.24 mmol, 3.9 g | C(C)(C)(C)N1N=C(C(=C1)CO)C(=O)OCC | C11H18N2O3
reactant | phosphorus tribromide | 51.7 mmol, 4.91 mL | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | ethyl 4-(bromomethyl)-1-tert-butyl-1H-pyrazole-3-carboxylate | 4.12 g | BrCC=1C(=NN(C1)C(C)(C)C)C(=O)OCC | C11H17BrN2O2
